US09029545B2
3-Bromo-2,6-dimethylthieno[2,3-b]pyridin-4-amine
To 4-amino-3-bromo-2,6-dimethylthieno[2,3-b]pyridine-5-carboxylic acid (1.95 g, 6.47 mmol) (Description 7) was added diphenyl ether (15 mL, 94 mmol) and the mixture heated at 200° C. for 4 h. This crude mixture was cooled and combined with material (1 g) from a similar reaction. Purification by chromatography on silica gel, eluting with a gradient of 0-50% ethyl acetate in cyclohexane afforded the title compound (1.82 g). LCMS (A) m/z: 257/259 [M+1]+, Rt 0.67 min (acidic).

reactant | 4-amino-3-bromo-2,6-dimethylthieno[2,3-b]pyridine-5-carboxylic acid | 6.47 mmol, 1.95 g | NC1=C2C(=NC(=C1C(=O)O)C)SC(=C2Br)C | C10H9BrN2O2S
reactant | diphenyl ether | 94 mmol, 15 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-Bromo-2,6-dimethylthieno[2,3-b]pyridin-4-amine | 1.82 g | BrC1=C(SC=2N=C(C=C(C21)N)C)C | C9H9BrN2S
